US05654436
Ethyl-butyroimidate hydrochloride
A solution of butyronitrile (15 g, 0.21 mol) in EtOH (150 mL) was cooled in an ice bath. The cold solution was then saturated with hydrogen chloride. The reaction mixture was refrigerated for 18 hours. The ethanol was evaporated under vacuum. The residual oily substance was then treated with ether to obtain the title compound (15.5 g, 48% yield) which was used in the next reaction.

reactant | butyronitrile | 0.21 mol, 15 g | C(CCC)#N | C4H7N
reactant | hydrogen chloride | Cl | ClH
reactant | EtOH | 150 mL | CCO | C2H6O
product | Ethyl-butyroimidate hydrochloride | 15.5 g, 48% yield | Cl.C(C)OC(CCC)=N | InChI=1S/C6H13NO.ClH/c1-3-5-6(7)8-4-2;/h7H,3-5H2,1-2H3;1H
